US05840732
i) Synthesis of 6-chloro-3-[4-chlorobutyl)-1-(2-chloroethyl)-5-phenylpyrimidine-2,4(1H,3H)-dione
To a suspension of 2.43 g (7.7 mmol) of 6-chloro-3-(4-chlorobutyl)-5-phenylpyrimidine-2,4(1H,3H)-dione and 1.70 g (12.3 mmol) of potassium carbonate in 40 ml of N,N-dimethylformamide, 1.25 ml (15 mmol) of 1-bromo-2-chloroethane was added at room temperature, followed by stirring at 60° C. for 2 hours and then at 100° C. for 3 hours. After cooling, the reaction mixture was concentrated to dryness. The residue was dissolved in dichloromethane-water; the organic layer was washed with water and dried. The oily substance obtained by distilling off the solvent was purified by column chromatography (eluent, n-hexane/ethyl acetate=5/1→2/1) to yield 1.56 g (54.5%, white powder) of the desired product.

reactant | 6-chloro-3-(4-chlorobutyl)-5-phenylpyrimidine-2,4(1H,3H)-dione | 7.7 mmol, 2.43 g | ClC1=C(C(N(C(N1)=O)CCCCCl)=O)C1=CC=CC=C1 | C14H14Cl2N2O2
reactant | potassium carbonate | 12.3 mmol, 1.70 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-chloroethane | 15 mmol, 1.25 ml | BrCCCl | C2H4BrCl
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 6-chloro-3-[4-chlorobutyl)-1-(2-chloroethyl)-5-phenylpyrimidine-2,4(1H,3H)-dione | ClC1=C(C(N(C(N1CCCl)=O)CCCCCl)=O)C1=CC=CC=C1 | C16H17Cl3N2O2
